US06858638B2
N-[3-(3-Aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 49 from 200 mg of N-[3-(3-nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide, 6 ml of ethanol, 73 mg of powdered iron, 100 ml of distilled water and 40 μl of 12 N hydrochloric acid. 70 mg of N-[3-(3-aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of light yellow crystals melting at 154° C. (analysis C20H18N4O4S2 % calculated C, 54.29; H, 4.10; N, 12.66; O, 14.46; S, 14.49. % found C, 53.03; H, 4.26; N, 11.63; S, 13.22).

reactant | N-[3-(3-nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 200 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H16N4O6S2
reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 12 N, 40 μl | Cl | ClH
catalyst | iron | 73 mg | [Fe] | Fe
solvent | water | 100 ml | O | H2O
product | N-[3-(3-aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 70 mg | NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H18N4O4S2
